US09382238B2
To a mixture of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid (100 mg, 0.243 mmol) and 3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-amine (51.6 mg, 0.267 mmol) in pyridine (3 mL) was added T3P® (EA solvate) (0.3 mL, 0.243 mmol) at 25° C. Then the mixture was stirred for 2 h, the mixture was concentrated to give a residue which was distributed between DCM (20 mL) and H2O (10 mL) and extracted with DCM (20 mL×2). The combined organic extracts were washed with brine (20 mL), dried over Na2SO4, filtered and concentrated to yield a white solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide (100 mg, 0.102 mmol, 42.1% yield): 1H NMR (400 MHz, CD3OD) δ 8.52 (d, J=4.2 Hz, 1H), 7.93 (d, J=2.0 Hz, 1H), 7.48-7.33 (m, 6H), 6.90 (d, J=8.6 Hz, 2H), 5.35 (s, 2H), 4.19-4.09 (m, 2H), 3.78 (s, 3H), 3.70-3.63 (m, 2H), 1.54-1.36 (m, 9H). ES-LCMS m/z 587 (M+H).

reactant | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetic acid | 0.243 mmol, 100 mg | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)O)F | C23H22FNO5
reactant | 3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-amine | 0.267 mmol, 51.6 mg | FC(C(C)(C)C1=NNC(=C1)N)(F)F | C7H10F3N3
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | H2O | 10 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(3-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrazol-5-yl)acetamide | 0.102 mmol, 100 mg, 42.1% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC1=CC(=NN1)C(C(F)(F)F)(C)C)F | C30H30F4N4O4
